US04138488
C. 4-(1,1-Diphenylpropyl)-Picolinic Acid
Dissolve 3.8 g. of 4-(1,1-diphenylpropyl)-picolinamide in 50 ml. of ethanol, add 100 ml. of 10% aqueous potassium hydroxide and heat the resulting mixture at reflux overnight. Remove the ethanol under reduced pressure, add water to the residue and adjust to about pH 5 with 10% aqueous hydrochloric acid. Filter the resulting solid and crystallize the precipitate from ethanol to obtain thereby the compound of this example, yield -- 1.6 g., m.p. 191°-193° C.

reactant | 4-(1,1-diphenylpropyl)-picolinamide | C1(=CC=CC=C1)C(CC)(C1=CC=CC=C1)C1=CC(=NC=C1)C(=O)N | C21H20N2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(1,1-Diphenylpropyl)-Picolinic Acid | C1(=CC=CC=C1)C(CC)(C1=CC=CC=C1)C1=CC(=NC=C1)C(=O)O | C21H19NO2
